US04806549
3-Butyryl-4-chloro-8-methylquinoline (2.48 g, 10 mmol), 2,4-dimethoxyaniline (3.06 g, 20 mmol) and 1,4-dioxan (20 ml) were heated at reflux for 1.5 hours. the solvent evaporated, the residue taken up in dichloromethane, washed with aqueous sodium bicarbonate, dried and evaporated. Chromatography (silica gel, 1% methanol in chloroform), conversion to the hydrochloride salt and recrystallisation from aqueous methanol gave 3-butyryl-4-(2,4-dimethoxyphenylamino)-8-methylquinoline hydrochloride (2.10 g, 57%), m.p. 190°-192°.

reactant | 3-Butyryl-4-chloro-8-methylquinoline | 10 mmol, 2.48 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)C | C14H14ClNO
reactant | 2,4-dimethoxyaniline | 20 mmol, 3.06 g | COC1=C(N)C=CC(=C1)OC | C8H11NO2
solvent | 1,4-dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(2,4-dimethoxyphenylamino)-8-methylquinoline hydrochloride | 2.10 g, 57% | Cl.C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)OC)OC)C | InChI=1S/C22H24N2O3.ClH/c1-5-7-19(25)17-13-23-21-14(2)8-6-9-16(21)22(17)24-18-11-10-15(26-3)12-20(18)27-4;/h6,8-13H,5,7H2,1-4H3,(H,23,24);1H
